US04385066
N-(2-(4-Carbomethoxyphenyl)ethyl)-2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine
The title compound was prepared as in Example 1a from 3-trifluoromethylphenyl glyoxal (3.85 g) and 2-(4-carbomethoxyphenyl) ethanamine (3.4 g), and crystallised from hexane m.p. 75-77.5. τ(CDCl3) 7.66 (2H, broad, replaceable by D2O), 5.9-6.5 (6H, m), 6.15 (3H,s), 5.3 (1H,m), 2.75 (2H,d,J=8 Hz), 2.3-2.6 (4H,m), 2.03 (2H,d,J=8 Hz).

reactant | 3-trifluoromethylphenyl glyoxal | 3.85 g | FC(C=1C=C(C=CC1)C(=O)C=O)(F)F | C9H5F3O2
reactant | 2-(4-carbomethoxyphenyl) ethanamine | 3.4 g | C(=O)(OC)C1=CC=C(C=C1)CCN | C10H13NO2
product | N-(2-(4-Carbomethoxyphenyl)ethyl)-2-hydroxy-2-(3-trifluoromethylphenyl) ethanamine | C(=O)(OC)C1=CC=C(C=C1)CCNCC(C1=CC(=CC=C1)C(F)(F)F)O | C19H20F3NO3
